US04278602
The distillation residue of the second reaction is again recycled for a third synthesis after adding a further 122.7 g of 94.5% 2-methyl-heptan-2-ol-6-one (0.80525 moles), 5.2853 g of 86% KOH and acetonitrile in the usual ratio. After the reaction, distillation gives 82.0 g of 2,6,6-trimethyl-2-cyanomethyltetrahydropyran (0.49099 moles) in the distillate, together with the unconverted hydroxyketone.

reactant | 2-methyl-heptan-2-ol-6-one | 0.80525 moles, 122.7 g | CC(C)(CCCC(C)=O)O | C8H16O2
reactant | KOH | 5.2853 g | [OH-].[K+]
reactant | acetonitrile | C(C)#N | C2H3N
product | 2,6,6-trimethyl-2-cyanomethyltetrahydropyran | 0.49099 moles, 82.0 g | CC1(OC(CCC1)(C)C)CC#N | C10H17NO
